US08486967B2
a) 8-(3-(Aminomethyl)phenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine dihydrochloride
To a solution of tert-butyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate (46 mg, 87.0 μmol) in methylene chloride (1 mL) was added 2 M solution of HCl in Ether (500 μL). The suspension was stirred at room temperature over night. The solvent was decanted and the residue was digerated with diethyl ether three times. The title compound was dried under reduced pressure and was obtained as a yellow solid (39 mg, 89%). MS ISP (m/e): 429.3 (100) [(M+H)+], 412.4 (57).

reactant | tert-butyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate | 87.0 μmol, 46 mg | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2 | C29H36N8O2
reactant | HCl | Cl | ClH
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | Ether | 500 μL | CCOCC | C4H10O
product | 8-(3-(Aminomethyl)phenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine dihydrochloride | 39 mg, 89% | Cl.Cl.NCC=1C=C(C=CC1)C=1C=2N(C=C(C1)C)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C | InChI=1S/C24H28N8.2ClH/c1-16-10-21(19-5-3-4-18(12-19)13-25)23-29-24(30-32(23)14-16)28-20-6-8-31(9-7-20)22-11-17(2)26-15-27-22;;/h3-5,10-12,14-15,20H,6-9,13,25H2,1-2H3,(H,28,30);2*1H
